US05990101
To 0.5 ml of methanol containing 120 mg of methylamine hydrochloride, 46 mg of potassium hydroxide and 90 mg of 3-formylimidazo[5,1-b]thiazole were added, followed by stirring at room temperature for 6.5 hours. Further, 64 mg of sodium boron cyanohydride was added thereto, and the mixture was then stirred at room temperature for 17 hours. Afterward, the solvent was evaporated under reduced pressure. To the resulting residue, 20 ml of water was added, and extraction was then carried out twice with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was then evaporated under reduced pressure to obtain 47.6 mg of 3-(N-methylamino)methylimidazo[5,1-b]thiazole.

reactant | methylamine hydrochloride | Cl.CN
reactant | potassium hydroxide | 46 mg | [OH-].[K+]
reactant | 3-formylimidazo[5,1-b]thiazole | 90 mg | C(=O)C=1N2C(SC1)=CN=C2 | C6H4N2OS
reactant | sodium boron cyanohydride | 64 mg | C#N.[B].[Na]
solvent | methanol | 0.5 ml, 120 mg | CO | CH4O
product | 3-(N-methylamino)methylimidazo[5,1-b]thiazole | 47.6 mg | CNCC=1N2C(SC1)=CN=C2 | C7H9N3S
